US07390818B2
A) 3-(4-Bromophenyl)-1,6-dimethyl-1,9-dihydro-2H-pyrido[2,3-b]indol-2-one
This compound is prepared according to the usual methods by reaction of N,1,5-trimethyl-1H-indole-2-amine with ethyl 2-(4-bromophenyl)-3-hydroxy-2-propenoate.

reactant | N,1,5-trimethyl-1H-indole-2-amine | CNC=1N(C2=CC=C(C=C2C1)C)C | C11H14N2
reactant | ethyl 2-(4-bromophenyl)-3-hydroxy-2-propenoate | BrC1=CC=C(C=C1)C(C(=O)OCC)=CO | C11H11BrO3
product | 3-(4-Bromophenyl)-1,6-dimethyl-1,9-dihydro-2H-pyrido[2,3-b]indol-2-one | BrC1=CC=C(C=C1)C1=CC2=C(NC3=CC=C(C=C23)C)N(C1=O)C | C19H15BrN2O
